US06599917B1
d) 3-Benzyl-6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene
A mixture of 8.3 g of 3-(α-hydroxybenzyl)-6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene, 12.5 g of zinc iodide, 2.0 g of sodium cyanoborohydride and 150 ml of dichloromethane was stirred at room temperature for 3 hours. After adding methanol to the reaction solution, insoluble matters were filtered off. The solvent was removed, and the residue was subjected to silica gel column chromatography and eluted with hexane and then with hexane/ethyl acetate (10:1), to give 5.9 g of the target compound.

reactant | 3-(α-hydroxybenzyl)-6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene | 8.3 g | OC(C1=CC=CC=C1)C=1C2=C(SC1)CC(CC2)C(=O)OCC | C18H20O3S
reactant | sodium cyanoborohydride | 2.0 g | C(#N)[BH3-].[Na+]
reactant | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | zinc iodide | 12.5 g | [I-].[Zn+2].[I-]
solvent | methanol | CO | CH4O
product | 3-Benzyl-6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene | 5.9 g | C(C1=CC=CC=C1)C=1C2=C(SC1)CC(CC2)C(=O)OCC | C18H20O2S
